US08957069B2
{2,4,6,7-Tetramethyl-5-[4-(4-methylphenyl)piperazin-1-yl]-2,3-dihydro-1-benzofuran-2-yl}methanol
By using (5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methanol (360 mg, 1.16 mmol) synthesized in Reference example 123 and 1-(4-methylphenyl)piperazine (668 mg, 3.79 mmol), the reaction was carried out in the same manner as Example 1 to obtain the title compound 30 mg (yield 6%). Melting point was 152 to 155° C. (ethyl acetate-hexane).

reactant | (5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methanol | 1.16 mmol, 360 mg | BrC=1C(=C(C2=C(CC(O2)(C)CO)C1C)C)C | C13H17BrO2
reactant | 1-(4-methylphenyl)piperazine | 3.79 mmol, 668 mg | CC1=CC=C(C=C1)N1CCNCC1 | C11H16N2
product | {2,4,6,7-Tetramethyl-5-[4-(4-methylphenyl)piperazin-1-yl]-2,3-dihydro-1-benzofuran-2-yl}methanol | 30 mg, yield 6% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)C)C)CO | C24H32N2O2
